US07618990B2
Lithium aluminum hydride (290 mg, 7.6 mmol) was added under nitrogen in portions to a solution of ethyl 1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclobutane carboxylate (990 mg, 2.6 mmol), prepared in the previous step, in 15 mL of tetrahydrofuran at ice bath temperature. After the addition, the reaction was stirred at ice bath temperature for 3 h. Water (290 μL) was added dropwise, followed by the addition of 290 μL of 15% NaOH and then 870 μL of water. After the addition, the reaction was stirred for 40 min. The reaction was filtered through the Celite™ reagent and the Celite™ reagent washed with ethyl acetate. The filtrate was partitioned with water. The organic layer was separated, washed one time with water, one time with saturated sodium chloride, dried (MgSO4), filtered and the solvent removed under reduced pressure. Purification of the residue on a Horizon™ Flash Collector (the Biotage FLASH 40+™ cartridge) using a linear gradient of ethyl acetate in methylene chloride gave (1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclobutyl)methanol (483 mg, 55%) as a light yellow solid, MS (ESI) m/z 339 [M+H]+.

reactant | Lithium aluminum hydride | 7.6 mmol, 290 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclobutane carboxylate | 2.6 mmol, 990 mg | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1(CCC1)C(=O)OCC | C16H17BrN2O2S
reactant | Water | 290 μL | O | H2O
reactant | NaOH | 290 μL | [OH-].[Na+]
reactant | water | 870 μL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (1-{[4-(4-bromophenyl)-1,3-thiazol-2-yl]amino}cyclobutyl)methanol | 483 mg, 55% | BrC1=CC=C(C=C1)C=1N=C(SC1)NC1(CCC1)CO | C14H15BrN2OS
